US04075227
Preparation of 2-(4-Chlorobenzoyl)-3-phenyl-6-methoxybenzothiophene.
To 200 ml. of 1,2-dichloroethane were added 10 g. (0.042 mole) of 3-phenyl-6-methoxybenzothiophene and 6.5 g. (0.042 mole) of 4-chlorobenzoyl chloride. The mixture was cooled to 0° C., and 5.73 g. of aluminum chloride were added. The mixture was stirred overnight, and an additional 10 percent of 4-chlorobenzyl chloride and aluminum chloride was added. The reaction mixture was maintained for approximately one hour, and ice then was added to the mixture. The resulting organic layer was separated from the aqueous, the aqueous layer was washed with chloroform which was then added to the organic layer. The organic layer was evaporated to dryness. To the resulting residue were added 250 ml. of methanol and 15 ml. of 5N sodium hydroxide. The mixture was refluxed for 40 minutes and then was evaporated. The residue was dissolved in ethyl acetate, and the ethyl acetate solution was washed successively with water and aqueous sodium chloride. The organic layer was dried over magnesium sulfate, filtered, and evaporated to give the title compound, m.p. 115° C.

reactant | 3-phenyl-6-methoxybenzothiophene | 0.042 mole | C1(=CC=CC=C1)C1=CSC2=C1C=CC(=C2)OC | C15H12OS
reactant | 4-chlorobenzoyl chloride | 0.042 mole | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-(4-Chlorobenzoyl)-3-phenyl-6-methoxybenzothiophene | ClC1=CC=C(C(=O)C=2SC3=C(C2C2=CC=CC=C2)C=CC(=C3)OC)C=C1 | C22H15ClO2S
